### PR TITLE
[Merged by Bors] - feat(SimpleGraph/FiveWheelLike): add def of IsFiveWheelLike and basic results

### PR DESCRIPTION
**Pull request by jt496**
We add the definitions of  `IsFiveWheelLike` and `IsFiveWheelLikeFree` and prove some basic results about graphs containing these structures. In particular they allow us to prove that any maximally (r + 1)-cliquefree graph is r-colorable iff it is complete-multipartite. 

(Our main motivation for introducing these definitions is their role in the proof of the Andrásfai-Erdős-Sós theorem which will be in a subsequent PR.)

Co-authored-by : Lian Bremner Tattersall <lian.tattersall.20@alumni.ucl.ac.uk>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by b-mehta — APPROVED** [review]
This looks generally quite nice, the definition is niche but clearly motivated and with a valuable end-goal. I've left some comments, please request my review again once they're addressed: I'd like to look over this once more before merging!

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean [hunk 1]
```diff
@@ -0,0 +1,180 @@
...
+## References
+
+  B. Andrasfái, P Erdős, V. T. Sós
+  **On the connection between chromatic number, maximal clique, and minimal degree of a graph**
+  https://doi.org/10.1016/0012-365X(74)90133-2
+
+  S. Brandt **On the structure of graphs with bounded clique number**
+  https://doi.org/10.1007/s00493-003-0042-z
+
+-/
```
[the remark this answers is not in the document]
Comment (jt496) [reply Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean:41]: Thanks for such a detailed review, you make some excellent points, which we'll do our best to address!

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean [hunk 2]
```diff
@@ -0,0 +1,180 @@
...
+    cases hy with
+    | inl hy => subst_vars; exact C.valid hw.isPathGraph3Compl.adj (hcy ▸ hcx)
+    | inr hy =>
+      apply (C.valid _ hcy.symm).elim
+      exact hw.isNClique_snd.1 (by simp) (by simp [hy]) fun h ↦ hw.not_mem_snd (h ▸ hy)
+  | inr hx =>
+      apply (C.valid _ hcx.symm).elim
+      exact hw.isNClique_fst.1 (by simp) (by simp [hx]) fun h ↦ hw.not_mem_fst (h ▸ hx)
+
+lemma card_isNClique_erase : s₁.card = r := by
```
[the remark this answers is not in the document]
Comment (jt496) [reply Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean:134]: I've added this to the implementation notes and also given the symmetric version that was missing. The new names are also hopefully clearer.

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean (hunk 1 above)
[the remark this answers is not in the document]
Comment (jt496) [reply Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean:41]: We've added the implementation note that `r` is shifted by two relative to Brandt's paper.

We also added a more detailed informal motivation for the structure and a couple of examples: crucially including one that genuinely resembles a wheel!

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean [hunk 3]
```diff
@@ -0,0 +1,180 @@
...
+
+/--
+An `IsFiveWheelLike r k v w₁ w₂ s₁ s₂` structure in `G` consists of vertices `v w₁ w₂` and `r`-sets
+`s₁` and `s₂` such that `{v, w₁, w₂}` induces the single edge `w₁w₂` (i.e. they form an
+`IsPathGraph3Compl`), `v, w₁, w₂ ∉ s₁ ∪ s₂`, `s₁ ∪ {v}, s₂ ∪ {v}, s₁ ∪ {w₁}, s₂ ∪ {w₂}` are all
+`(r + 1)`- cliques and `#(s₁ ∩ s₂) = k`. (If `G` is maximally `(r + 2)`-cliquefree and not complete
+ multipartite then `G` will contain such a structure : see
+`exists_isFiveWheelLike_of_max_cliqueFree_not_isCompleteMultipartite`.)
+-/
+structure IsFiveWheelLike (G : SimpleGraph α) (r k : ℕ) (v w₁ w₂ : α) (s₁ s₂ : Finset α) :
```
[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean:73]: I think that's fair to keep then, but let's have a comment or implementation note for it, that it's there because it matches the informal definition, makes further things cleaner to state, and makes `FiveWheelLikeFree` cleaner to define

File: Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean [hunk 4]
```diff
@@ -23,6 +23,10 @@ A graph is complete multipartite iff non-adjacency is transitive.
 * `SimpleGraph.IsPathGraph3Compl`: predicate for three vertices to be a witness to
    non-complete-multi-partite-ness of a graph G. (The name refers to the fact that the three
    vertices form the complement of `pathGraph 3`.)
+
+# See also: Mathlib.Combinatorics.SimpleGraph.FiveWheelLike
+`colorable_iff_isCompleteMultipartite_of_maximal_cliqueFree` a maximally `r + 1`- cliquefree graph
+ is `r`-colorable iff it is complete-multipartite.
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean:29]:
```suggestion
  `colorable_iff_isCompleteMultipartite_of_maximal_cliqueFree` a maximally `r + 1`- cliquefree graph
   is `r`-colorable iff it is complete-multipartite.
```

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean [hunk 5]
```diff
@@ -0,0 +1,222 @@
...
+Authors: John Talbot, Lian Bremner Tattersall
+-/
+import Mathlib.Combinatorics.SimpleGraph.CompleteMultipartite
+/-!
+# Five-wheel like graphs
+
+This file defines an `IsFiveWheelLike` structure in a graph, and describes properties of these
+structures as well as graphs which avoid this structure. These have two key uses:
+* We use them to prove that a maximally `Kᵣ₊₁`-free graph is `r`-colorable iff it is
+complete-multipartite: `colorable_iff_isCompleteMultipartite_of_maximal_cliqueFree`
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean:13]:
```suggestion
  complete-multipartite: `colorable_iff_isCompleteMultipartite_of_maximal_cliqueFree`
```

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean [hunk 6]
```diff
@@ -0,0 +1,222 @@
...
+* They play a key role in Brandt's proof of the Andrásfai-Erdős-Sós theorem, which is where they
+first appeared.
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean:15]:
```suggestion
  first appeared.
```

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean (hunk 3 above)
[the remark this answers is not in the document]
Comment (jt496) [reply Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean]: I've now added this implementation note, but I'm still not sure the field is correctly named. 
Perhaps `card_inter`?

[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean]: Yup, that sounds good.

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean [hunk 7]
```diff
@@ -0,0 +1,222 @@
...
+
+/--
+Any graph containing an `IsFiveWheelLike r k` structure is not `(r + 1)`-colorable.
+-/
+lemma not_colorable_succ : ¬ G.Colorable (r + 1) := by
+  intro ⟨C⟩
+  have h := C.surjOn_of_card_le_isClique hw.isNClique_fst_left.1 (by simp [hw.isNClique_fst_left.2])
+  have := C.surjOn_of_card_le_isClique hw.isNClique_snd_right.1 (by simp [hw.isNClique_snd_right.2])
+-- Since `C` is an `r + 1`-coloring and `insert w₁ s` is an `r + 1`-clique, it contains a vertex `x`
+-- which shares its colour with `v`
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean:154]:
```suggestion
  -- Since `C` is an `r + 1`-coloring and `insert w₁ s` is an `r + 1`-clique, it contains a vertex `x`
  -- which shares its colour with `v`
```
and similarly below

**Review by b-mehta — APPROVED** [review]

File: Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean (hunk 4 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/CompleteMultipartite.lean:29]: I think this one's still outstanding

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean [hunk 8]
```diff
@@ -0,0 +1,222 @@
...
+  `G` with `r`-sets `s` and `t`, and vertices `v w₁ w₂` forming an `IsPathGraph3Compl` and
+  `#(s ∩ t) = k`.
+
+* `SimpleGraph.FiveWheelLikeFree`: predicate for `G` to have no `IsFiveWheelLike r k` subgraph.
+
+## Implementation notes
+The definitions of `IsFiveWheelLike` and `IsFiveWheelLikeFree` in this file have `r` shifted by two
+compared to the definitions in Brandt **On the structure of graphs with bounded clique number**
+
+The definition of `IsFiveWheelLike` does not contain the facts that `#s = r ` and `#t = r` but we
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean:57]:
```suggestion
The definition of `IsFiveWheelLike` does not contain the facts that `#s = r` and `#t = r` but we
```

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean [hunk 9]
```diff
@@ -0,0 +1,222 @@
...
+    cases hy with
+    | inl hy =>
+    -- But this is a contradiction since `w₁` and `w₂` are adjacent.
+      subst_vars; exact C.valid hw.isPathGraph3Compl.adj (hcy ▸ hcx)
+    | inr hy =>
+      apply (C.valid _ hcy.symm).elim
+      exact hw.isNClique_right.1 (by simp) (by simp [hy]) fun h ↦ hw.not_mem_right (h ▸ hy)
+  | inr hx =>
+      apply (C.valid _ hcx.symm).elim
+      exact hw.isNClique_left.1 (by simp) (by simp [hx]) fun h ↦ hw.not_mem_left (h ▸ hx)
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean:171]:
```suggestion
    apply (C.valid _ hcx.symm).elim
    exact hw.isNClique_left.1 (by simp) (by simp [hx]) fun h ↦ hw.not_mem_left (h ▸ hx)
```

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean [hunk 10]
```diff
@@ -0,0 +1,222 @@
...
+end IsFiveWheelLike
+
+/--
+Any maximally `Kᵣ₊₂`-free graph that is not complete-multipartite contains a maximal
+`IsFiveWheelLike` structure `Wᵣ,ₖ` for some `k < r`. (It is maximal in terms of `k`.)
+-/
+lemma exists_max_isFiveWheelLike_of_maximal_cliqueFree_not_isCompleteMultipartite
+    (h : Maximal (fun H => H.CliqueFree (r + 2)) G) (hnc : ¬ G.IsCompleteMultipartite) :
+    ∃ k v w₁ w₂ s t, G.IsFiveWheelLike r k v w₁ w₂ s t ∧ k < r ∧
+    ∀ j, k < j → G.FiveWheelLikeFree r j := by
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean:195]:
```suggestion
      ∀ j, k < j → G.FiveWheelLikeFree r j := by
```
this one's just for readability

File: Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean [hunk 11]
```diff
@@ -0,0 +1,222 @@
...
+
+lemma CliqueFree.fiveWheelLikeFree_of_le (h : G.CliqueFree (r + 2)) (hk : r ≤ k) :
+    G.FiveWheelLikeFree r k := fun hw ↦ (hw.card_inter_lt_of_cliqueFree h).not_le hk
+
+/-- A maximally `Kᵣ₊₁`-free graph is `r`-colorable iff it is complete-multipartite. -/
+theorem colorable_iff_isCompleteMultipartite_of_maximal_cliqueFree
+    (h : Maximal (fun H => H.CliqueFree (r + 1)) G) : G.Colorable r ↔ G.IsCompleteMultipartite := by
+  match r with
+  | 0 => exact ⟨fun _ ↦ fun x ↦ cliqueFree_one.1 h.1 |>.elim' x,
+                 fun _ ↦ G.colorable_zero_iff.2 <| cliqueFree_one.1 h.1⟩
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/FiveWheelLike.lean:214]:
```suggestion
                fun _ ↦ G.colorable_zero_iff.2 <| cliqueFree_one.1 h.1⟩
```
nitpick

**Review by b-mehta — COMMENTED** [review]
Thanks!

bors d+
